US04639453
A mixture of 9.8 g (0.05 mol) of 1,3-dioxo-6-cyclohexyl-cyclohexane, 12.9 g (0.15 mol) of anhydrous piperazine and 150 ml of toluene is reacted and worked up as described in Example 1. For purification, column chromatography is included (corresponding to Example 2). (3-Oxo-6-cyclohexyl-1-cyclohexen-1-yl)-piperazine is obtained as an oil in an amount of 9.9 g (=76% yield) with an RF value of 0.36 (conditions corresponding to Example 1). The dihydrochloride has a melting point of 258°-261° C. (decomposition).

reactant | 1,3-dioxo-6-cyclohexyl-cyclohexane | 0.05 mol, 9.8 g | O=C1CC(CCC1C1CCCCC1)=O | C12H18O2
reactant | piperazine | 0.15 mol, 12.9 g | N1CCNCC1 | C4H10N2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (3-Oxo-6-cyclohexyl-1-cyclohexen-1-yl)-piperazine | 76% yield | O=C1C=C(C(CC1)C1CCCCC1)N1CCNCC1 | C16H26N2O
